**************************************
*      Model Generated by MODPEX     *
*Copyright(c) Symmetry Design Systems*
*         All Rights Reserved        *
*    UNPUBLISHED LICENSED SOFTWARE   *
*   Contains Proprietary Information *
*      Which is The Property of      *
*     SYMMETRY OR ITS LICENSORS      *
*    Modeling services provided by   *
* Interface Technologies www.i-t.com *
**************************************
.MODEL 1N4001 d
+IS=1.22478e-08 RS=0.0414786 N=1.83369 EG=0.6
+XTI=0.05 BV=50 IBV=5e-08 CJO=1e-11
+VJ=0.7 M=0.5 FC=0.5 TT=1e-09
+KF=0 AF=1
* Model generated on October 12, 2003
* Model format: PSpice

**************************************
*      Model Generated by MODPEX     *
*Copyright(c) Symmetry Design Systems*
*         All Rights Reserved        *
*    UNPUBLISHED LICENSED SOFTWARE   *
*   Contains Proprietary Information *
*      Which is The Property of      *
*     SYMMETRY OR ITS LICENSORS      *
*Commercial Use or Resale Restricted *
*   by Symmetry License Agreement    *
**************************************
* Model generated on Aug 7, 01
* MODEL FORMAT: PSpice
*$
.MODEL 2N3904 npn
+IS=1.26532e-10 BF=206.302 NF=1.5 VAF=1000
+IKF=0.0272221 ISE=2.30771e-09 NE=3.31052 BR=20.6302
+NR=2.89609 VAR=9.39809 IKR=0.272221 ISC=2.30771e-09
+NC=1.9876 RB=5.8376 IRB=50.3624 RBM=0.634251
+RE=0.0001 RC=2.65711 XTB=0.1 XTI=1
+EG=1.05 CJE=4.64214e-12 VJE=0.4 MJE=0.256227
+TF=4.19578e-10 XTF=0.906167 VTF=8.75418 ITF=0.0105823
+CJC=3.76961e-12 VJC=0.4 MJC=0.238109 XCJC=0.8
+FC=0.512134 CJS=0 VJS=0.75 MJS=0.5
+TR=6.82023e-08 PTF=0 KF=0 AF=1

*//////////////////////////////////////////////////////////////////////
* (C) National Semiconductor, Inc.
* Models developed and under copyright by:
* National Semiconductor, Inc.  

*/////////////////////////////////////////////////////////////////////
* Legal Notice: This material is intended for free software support.
* The file may be copied, and distributed; however, reselling the 
*  material is illegal

*////////////////////////////////////////////////////////////////////
* For ordering or technical information on these models, contact:
* National Semiconductor's Customer Response Center
*                 7:00 A.M.--7:00 P.M.  U.S. Central Time
*                                (800) 272-9959
* For Applications support, contact the Internet address:
*  amps-apps@galaxy.nsc.com

*//////////////////////////////////////////////////////////
*LM741 OPERATIONAL AMPLIFIER MACRO-MODEL
*//////////////////////////////////////////////////////////
*
* connections:      non-inverting input
*                   |   inverting input
*                   |   |   positive power supply
*                   |   |   |   negative power supply
*                   |   |   |   |   output
*                   |   |   |   |   |
*                   |   |   |   |   |
.SUBCKT LM741       1   2  99  50  28
*
*Features:
*Improved performance over industry standards
*Plug-in replacement for LM709,LM201,MC1439,748
*Input and output overload protection
*
****************INPUT STAGE**************
*
IOS 2 1 20N
*^Input offset current
R1 1 3 250K
R2 3 2 250K
I1 4 50 100U
R3 5 99 517
R4 6 99 517
Q1 5 2 4 QX
Q2 6 7 4 QX
*Fp2=2.55 MHz
C4 5 6 60.3614P
*
***********COMMON MODE EFFECT***********
*
I2 99 50 1.6MA
*^Quiescent supply current
EOS 7 1 POLY(1) 16 49 1E-3 1
*Input offset voltage.^
R8 99 49 40K
R9 49 50 40K
*
*********OUTPUT VOLTAGE LIMITING********
V2 99 8 1.63
D1 9 8 DX
D2 10 9 DX
V3 10 50 1.63
*
**************SECOND STAGE**************
*
EH 99 98 99 49 1
G1 98 9 5 6 2.1E-3
*Fp1=5 Hz
R5 98 9 95.493MEG
C3 98 9 333.33P
*
***************POLE STAGE***************
*
*Fp=30 MHz
G3 98 15 9 49 1E-6
R12 98 15 1MEG
C5 98 15 5.3052E-15
*
*********COMMON-MODE ZERO STAGE*********
*
*Fpcm=300 Hz
G4 98 16 3 49 3.1623E-8
L2 98 17 530.5M
R13 17 16 1K
*
**************OUTPUT STAGE**************
*
F6 50 99 POLY(1) V6 450U 1
E1 99 23 99 15 1
R16 24 23 25
D5 26 24 DX
V6 26 22 0.65V
R17 23 25 25
D6 25 27 DX
V7 22 27 0.65V
V5 22 21 0.18V
D4 21 15 DX
V4 20 22 0.18V
D3 15 20 DX
L3 22 28 100P
RL3 22 28 100K
*
***************MODELS USED**************
*
.MODEL DX D(IS=1E-15)
.MODEL QX NPN(BF=625)
*
.ENDS
*$

*//////////////////////////////////////////////////////////
* models for mixed digital simulation
*//////////////////////////////////////////////////////////

* TTL input
.model adc adc_bridge(in_low = 0.8 in_high = 2.7)

* TTL output
.model dac dac_bridge(out_low = 0.2 out_high = 4.6 out_undef = 2.2)

* Logic circuits
.model NOT_D d_inverter
.model AND_D d_and
.model NAND_D d_nand
.model OR_D d_or
.model NOR_D d_nor
.model XOR_D d_xor
.model XNOR_D d_xnor
.model DFLIP_D d_dff(ic=0)
.model CLOCK_D d_osc(cntl_array = [0 5] freq_array = [50k 150k] duty_cycle = 0.5)
.model PULLDOWN_D d_pulldown
.model PULLUP_D d_pullup

*//////////////////////////////////////////////////////////
* subcircuits for KiCad simulation of logic with "analog" voltages
*//////////////////////////////////////////////////////////

*//////////////////////////////////////////////////////////
* a->d converter for voltage-level analog inputs
*//////////////////////////////////////////////////////////
*
* connections:                input
*                             |   output
*                             |   | 
.SUBCKT SVC_LOGIC_ADC         1   2

a1 [1] [2] adc

.ends

*//////////////////////////////////////////////////////////
* d->a converter for voltage-level analog output/measurements
*//////////////////////////////////////////////////////////
*
* connections:                input
*                             |   output
*                             |   | 
.SUBCKT SVC_LOGIC_DAC         1   2

a1 [1] [2] dac

.ends


*//////////////////////////////////////////////////////////
* inverter
*//////////////////////////////////////////////////////////
* 8/27/2020  modified for svc.lib name and digital only
*
* connections:                input
*                             |   output
*                             |   | 
.SUBCKT SVC_LOGIC_NOT         1   2

a1 1 2 NOT_D

.ends


*//////////////////////////////////////////////////////////
* 2-input and
*//////////////////////////////////////////////////////////
* 8/27/2020 modified for svc.lib name and digital only
*
* connections:                 input A
*                              |   input B
*                              |   |   output
*                              |   |   |
.SUBCKT SVC_LOGIC_AND          1   2   3

a3 [1 2] 3 AND_D

.ends

*//////////////////////////////////////////////////////////
* 2-input nand
*//////////////////////////////////////////////////////////
* 8/27/2020 modified for svc.lib name and digital only
*
* connections:                input A
*                             |   input B
*                             |   |   output
*                             |   |   |
.SUBCKT SVC_LOGIC_NAND        1   2   3

a3 [1 2] 3 NAND_D

.ends

*//////////////////////////////////////////////////////////
* 2-input or
*//////////////////////////////////////////////////////////
* 8/27/2020 modified for svc.lib name and digital only
* 
* connections:                input A
*                             |   input B
*                             |   |   output
*                             |   |   |
.SUBCKT SVC_LOGIC_OR          1   2   3

a3 [1 2] 3 OR_D

.ends

*//////////////////////////////////////////////////////////
* 2-input nor
*//////////////////////////////////////////////////////////
* 8/27/2020 modified for svc.lib name and digital only
*
* connections:                input A
*                             |   input B
*                             |   |   output
*                             |   |   |
.SUBCKT SVC_LOGIC_NOR         1   2   3

a3 [1 2] 3 NOR_D

.ends

*//////////////////////////////////////////////////////////
* 2-input xor
*//////////////////////////////////////////////////////////
* 8/27/2020 modified for svc.lib name and digital only
*
* connections:                input A
*                             |   input B
*                             |   |   output
*                             |   |   |
.SUBCKT SVC_LOGIC_XOR         1   2   3

a3 [1 2] 3 XOR_D

.ends

*//////////////////////////////////////////////////////////
* 2-input xnor
*//////////////////////////////////////////////////////////
* 8/27/2020 modified for svc.lib name and digital only
*
* connections:                input A
*                             |   input B
*                             |   |   output
*                             |   |   |
.SUBCKT SVC_LOGIC_XNOR        1   2   3

a3 [1 2] 3 XNOR_D

.ends


*//////////////////////////////////////////////////////////
* D flip-flop 
*//////////////////////////////////////////////////////////
*
* connections:               D
*                            |   clock
*                            |   |   Q
*                            |   |   |   NQ
*                            |   |   |   |    Set
*                            |   |   |   |    |   Reset
*                            |   |   |   |    |   |
.SUBCKT SVC_LOGIC_DFLIPFLOP  1   2   3   4    5   6

a5 1 2 5 6 3 4 DFLIP_D


.ends


*//////////////////////////////////////////////////////////
* 100 kHz digital clock source, purely digital
*//////////////////////////////////////////////////////////
*
* connections:               clock out
*                            |   ground
*                            |   |  
.SUBCKT SVC_LOGIC_CLOCK      1   2

v1 3 2 DC 2.5
a1 3 1 clock_d

.ends


*//////////////////////////////////////////////////////////
* digital pull-down (digital 0)
*//////////////////////////////////////////////////////////

.SUBCKT SVC_LOGIC_ZERO 1

a1 1 pulldown_d

.ends

*//////////////////////////////////////////////////////////
* digital pull-up (digital 1)
*//////////////////////////////////////////////////////////

.SUBCKT SVC_LOGIC_ONE 1

a1 1 pullup_d

.ends